US08865752B2
Step-7: A solution of 4-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)aniline (600 mg, 2.32 mmol) and KSCN (508 mg, 5.22 mmol) in 15 mL AcOH was cooled to about 7° C. and treated with Br2 (125 μL, 2.43 mmol) in 2 mL AcOH added drop-wise via syringe over 5 min. The reaction vessel was removed from the cooling bath and stirred at rt for 1 hr. The reaction was cooled in an ice bath and basified with 3N NaOH (100 mL) added portionwise over several minutes. This mixture was then extracted with DCM (4×75 mL). The combined organic extracts were dried over Na2SO4, decanted and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with 6% MeOH (2N NH3)/DCM to give 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine as a yellow foam. MS ESI: m/z 316.16 [M+1+].

reactant | 4-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)aniline | 2.32 mmol, 600 mg | CN(C(C(N1C=NC=C1)C1=CC=C(N)C=C1)CC)C | C15H22N4
reactant | KSCN | 5.22 mmol, 508 mg | C(#N)[S-].[K+]
reactant | Br2 | 2.43 mmol, 125 μL | BrBr | Br2
solvent | AcOH | 15 mL | CC(=O)O | C2H4O2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 6-(2-(dimethylamino)-1-(1H-imidazol-1-yl)butyl)benzo[d]thiazol-2-amine | CN(C(C(N1C=NC=C1)C1=CC2=C(N=C(S2)N)C=C1)CC)C | C16H21N5S
